US06762281B2
A solution of 2-(2-hydroxyethoxy)acetic acid prepared as desctibed in (Snapp, Thomas C., Jr.; Blood, Alden E. Ether diester derivatives of p-dioxanone. U.S. (1975), 4 pp. U.S. Pat. No. 3,929,847) (7.45 g, 22 mmol) in pyridine (20 mL) is treated with 4,4′-dimethoxytrityl chloride (10.16 g, 30 mmol) overnight at room temperature and concentrated to an oil in vacuo. The residue is dissolved in a mixture of MeOH and CH2Cl2 (95:5, v/v; 200 mL) and washed with 2 M aqueous triethylammonium acetate (5×20 mL). The organic solution is evaporated, re-dissolved in CH2Cl2, dried over Na2SO4, and evaporated to give crude triethylammonium 2-[2-(4,4′-dimethoxytrityloxy) ethoxy] acetate in quantitative yield (10.47 g).

reactant | 2-(2-hydroxyethoxy)acetic acid | OCCOCC(=O)O | C4H8O4
reactant | p-dioxanone | O1C(COCC1)=O | C4H6O3
reactant | 4,4′-dimethoxytrityl chloride | 30 mmol, 10.16 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | triethylammonium 2-[2-(4,4′-dimethoxytrityloxy) ethoxy] acetate | quantitative yield | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OCCOCC(=O)[O-])C=C1.C(C)[NH+](CC)CC | InChI=1S/C25H26O6.C6H15N/c1-28-22-12-8-20(9-13-22)25(19-6-4-3-5-7-19,31-17-16-30-18-24(26)27)21-10-14-23(29-2)15-11-21;1-4-7(5-2)6-3/h3-15H,16-18H2,1-2H3,(H,26,27);4-6H2,1-3H3
